reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]([O:5][H:12])([H:14])[C:7]1([C:6][H:13])[H:15])[H:8],65.94258458330171
[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:4]([O:5][H:13])[H:11].[O:1]([C:2]([C:3]([H:9])([H:10])[H:12])([H:7])[H:8])[H:6],86.8606458425836
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@:3]([N:4]=[O:5])([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],79.6536967478337
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:15])([H:7])([H:8])[H:9].[C:3](=[N:4][C:5]([H:10])([H:11])[H:12])=[C:6]([H:13])[H:14],76.46039917826498
[C:1]1([H:7])([H:8])[O:2][C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[O:2][C:3]([H:9])([H:10])[C-:4]2[N+:5]([H:11])([H:12])[C@@:6]12[H:13],61.0030612812146
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[C:5]=[N:6][H:8].[N:1](=[C:2]1[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])[H:7],65.5668787505816
[C:1]([H:8])([H:9])([H:10])[H:12].[C:2](=[C:3]([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10],95.3505830078635
[C:1]([C:2]([O:3][H:10])([H:9])[H:12])([H:6])([H:7])[H:8].[C:4]([O:5][H:13])[H:11]>>[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],13.148177350552217
[C-:3]([O:4][H:7])=[C:5]=[C+:6][H:8].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],12.861464851814695
[C:1]([C:2]([C:4](=[C:3])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],7.635848762841505
[C:1]([C@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:14])[H:12])([H:7])([H:8])[H:9].[H:10][H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],74.2201341469725
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])[H:11])=[O:4])([H:8])([H:9])[H:10],54.0863508559688
[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[O:4][C@:5]1([H:12])[O:6]2)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],11.429627459415492
[C:1](/[C:2](=[C:6](/[O:5][C:4](=[O:3])[H:12])[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],11.5645115843082
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[O+:5][C-:6]([H:16])[H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],4.714555067917587
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:5][C:4](=[C:3]([H:11])[H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],94.2746932773887
[H:8][H:10].[N:1](=[C:2]1\[O:3][C@:4]1([C:5](=[O:6])[H:11])[H:9])\[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],40.369059388731216
[C:1](=[C:2]([C:3]([H:12])([H:13])[H:14])[H:11])([H:8])[H:10].[C:4](=[O:5])=[C:6]=[C:7]([H:9])[H:15]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],31.1247388005784
[C:1]([O+:3]=[C-:2][H:7])([H:4])([H:5])[H:6]>>[C:1]1([H:4])([H:5])[C:2]([H:6])([H:7])[O:3]1,31.243517693005394
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],55.79036955502979
[C-:1](=[O+:6][C:5](/[C:4](=[C:3](\[C:2]([H:8])([H:9])[H:10])[H:11])[H:12])([H:13])[H:14])[H:7]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([H:14])[O:6]1,22.28305601748061
[C:1](=[C:2]([H:11])[H:12])([H:9])[H:10].[C:3](=[O:4])=[C:5]=[C:6]([C:7]([H:13])([H:14])[H:15])[H:8]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],28.410032715360895
[C:1]([H:7])([H:8])([H:9])[H:18].[C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11].[C:5](=[O:6])([H:16])[H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],65.82394397906539
[O:1]([C@@:2]([C:3]([H:10])([H:11])[H:12])([C@@:7]1([H:15])[C:4](=[O:5])[C:6]1([H:13])[H:14])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],81.484126625943
